* Copyright © Linear Technology Corp. 2011.  All rights reserved.
*
.subckt LT3022-1.2 1 2 3 4 5 6 7 8 9 10 11 12
Q1 N002 N006 12 0 PE temp=27
R15 N002 3 .53m
A2 10 N007 10 N009 10 10 N004 10 AND Tau=1u
A1 9 10 10 10 10 10 N009 10 SCHMITT Vt=.8 Vh=1m trise=1u
A3 12 10 10 10 10 10 N007 10 SCHMITT Vt=.92 Vh=1m Trise=1u
A4 10 N010 N011 10 10 10 N006 10 OTA Vhigh=11 G=10 Iout=8m Ref=-.2
G1 10 N010 N008 10 10µ
C2 N010 10 10p Rser=5K Rpar=100K
C3 N008 10 1p Rpar=20K
C4 N006 12 250n Rser=20
D1 9 10 BIA
C5 12 10 1p Rpar=1G
A5 N005 10 N011 N011 N011 N011 10 N011 VARISTOR
D2 10 N005 F
G2 10 N005 3 N002 20
G3 10 N005 12 10 table(1.7 28m 10 30m)
R1 N011 N004 10Meg
G4 12 10 N004 10 110µ
D3 12 10 BIA
S1 10 3 N008 10 OV
A6 10 12 N006 N006 N006 N006 10 N006 VARISTOR table(.5 0 10.5 10)
R2 3 7 1m
R3 7 N008 100K
.model PE PNP(Rb=50 BF=350 Cjc=1n Cje=1n VAF=3)
.model BIA D(Ron=100 Roff=1G Ilimit=3u)
.model F D(Ron=1m Roff=10K Vrev=30)
.model OV SW(Ron=1 Roff=1G Vt=.21 Vh=-5m level=2 ilimit=18m oneway)
.ends LT3022-1.2
*
.subckt LT3022-1.5 1 2 3 4 5 6 7 8 9 10 11 12
Q1 N002 N006 12 0 PE temp=27
R15 N002 3 .53m
A2 10 N007 10 N009 10 10 N004 10 AND Tau=1u
A1 9 10 10 10 10 10 N009 10 SCHMITT Vt=.8 Vh=1m trise=1u
A3 12 10 10 10 10 10 N007 10 SCHMITT Vt=.92 Vh=1m Trise=1u
A4 10 N010 N011 10 10 10 N006 10 OTA Vhigh=11 G=10 Iout=8m Ref=-.2
G1 10 N010 N008 10 10µ
C2 N010 10 10p Rser=5K Rpar=100K
C3 N008 10 1p Rpar=20K
C4 N006 12 250n Rser=20
D1 9 10 BIA
C5 12 10 1p Rpar=1G
A5 N005 10 N011 N011 N011 N011 10 N011 VARISTOR
D2 10 N005 F
G2 10 N005 3 N002 20
G3 10 N005 12 10 table(1.7 28m 10 30m)
R1 N011 N004 10Meg
G4 12 10 N004 10 110µ
D3 12 10 BIA
S1 10 3 N008 10 OV
A6 10 12 N006 N006 N006 N006 10 N006 VARISTOR table(.5 0 10.5 10)
R2 3 7 1m
R3 7 N008 130K
.model PE PNP(Rb=50 BF=350 Cjc=1n Cje=1n VAF=3)
.model BIA D(Ron=100 Roff=1G Ilimit=3u)
.model F D(Ron=1m Roff=10K Vrev=30)
.model OV SW(Ron=1 Roff=1G Vt=.21 Vh=-5m level=2 ilimit=18m oneway)
.ends LT3022-1.5
*
.subckt LT3022-1.8 1 2 3 4 5 6 7 8 9 10 11 12
Q1 N002 N006 12 0 PE temp=27
R15 N002 3 .53m
A2 10 N007 10 N009 10 10 N004 10 AND Tau=1u
A1 9 10 10 10 10 10 N009 10 SCHMITT Vt=.8 Vh=1m trise=1u
A3 12 10 10 10 10 10 N007 10 SCHMITT Vt=.92 Vh=1m Trise=1u
A4 10 N010 N011 10 10 10 N006 10 OTA Vhigh=11 G=10 Iout=8m Ref=-.2
G1 10 N010 N008 10 10µ
C2 N010 10 10p Rser=5K Rpar=100K
C3 N008 10 1p Rpar=20K
C4 N006 12 250n Rser=20
D1 9 10 BIA
C5 12 10 1p Rpar=1G
A5 N005 10 N011 N011 N011 N011 10 N011 VARISTOR
D2 10 N005 F
G2 10 N005 3 N002 20
G3 10 N005 12 10 table(1.7 28m 10 30m)
R1 N011 N004 10Meg
G4 12 10 N004 10 110µ
D3 12 10 BIA
S1 10 3 N008 10 OV
A6 10 12 N006 N006 N006 N006 10 N006 VARISTOR table(.5 0 10.5 10)
R2 3 7 1m
R3 7 N008 160K
.model PE PNP(Rb=50 BF=350 Cjc=1n Cje=1n VAF=3)
.model BIA D(Ron=100 Roff=1G Ilimit=3u)
.model F D(Ron=1m Roff=10K Vrev=30)
.model OV SW(Ron=1 Roff=1G Vt=.21 Vh=-5m level=2 ilimit=18m oneway)
.ends LT3022-1.8
*
.subckt LT3022 1 2 3 4 5 6 7 8 9 10 11 12
Q1 N002 N006 12 0 PE temp=27
R15 N002 3 .53m
A2 10 N007 10 N008 10 10 N004 10 AND Tau=1u
A1 9 10 10 10 10 10 N008 10 SCHMITT Vt=.8 Vh=1m trise=1u
A3 12 10 10 10 10 10 N007 10 SCHMITT Vt=.92 Vh=1m Trise=1u
A4 10 N009 N011 10 10 10 N006 10 OTA Vhigh=11 G=10 Iout=8m Ref=-.2
G1 10 N009 7 10 10µ
C2 N009 10 10p Rser=5K Rpar=100K
C3 7 10 1p Rpar=1G
C4 N006 12 250n Rser=20
D1 9 10 BIA
C5 12 10 1p Rpar=1G
A5 N005 10 N011 N011 N011 N011 10 N011 VARISTOR
D2 10 N005 F
G2 10 N005 3 N002 20
G3 10 N005 12 10 table(1.7 28m 10 30m)
R1 N011 N004 10Meg
G4 12 10 N004 10 110µ
D3 12 10 BIA
S1 10 3 7 10 OV
A6 10 12 N006 N006 N006 N006 10 N006 VARISTOR table(.5 0 10.5 10)
.model PE PNP(Rb=50 BF=350 Cjc=1n Cje=1n VAF=3)
.model BIA D(Ron=100 Roff=1G Ilimit=3u)
.model F D(Ron=1m Roff=10K Vrev=30)
.model OV SW(Ron=1 Roff=1G Vt=.21 Vh=-5m level=2 ilimit=18m oneway)
.ends LT3022
