* Copyright © Linear Technology Corp. 2011.  All rights reserved.
*
.subckt LT3032-5 1 2 3 4 5 6 7 8 9 10 11 12 13 14
Q2 N018 N016 N024 0 NAx
Q3 N016 N019 N027 0 Nx temp=27
C1 N016 N019 18p Rser=40K
Q4 N019 N019 N028 0 Nx 10 temp=27
R2 N028 6 12K
R3 N027 6 10K
Q1 N028 N007 N017 0 Px temp=27
R6 4 N017 121.5K
R8 N024 6 1K
Q5 N018 N018 N015 0 Px
Q6 N026 N018 4 0 Px 6
R1 N026 6 450K
R9 4 N015 4K
Q7 N023 N026 6 0 NPx
R7 7 N023 .7
Q8 6 N023 N016 0 Px 4.5
G1 4 N016 11 4 80µ
R5 4 11 5K
A1 4 10 0 0 0 0 N006 0 SCHMITT Vt=1.9 Vh=10m Rhigh=1 Rlow=1K
A2 10 4 0 0 0 0 N006 0 SCHMITT Vt=1.4 Vh=10m Rhigh=1 Rlow=1K
G2 4 N016 N006 0 1.2µ
G3 4 N019 N006 0 1.2µ
C4 0 N006 .1µ
R4 10 4 5Meg
A3 0 N003 N016 N016 N016 N016 6 N016 VARISTOR
G4 0 N003 N023 7 10m
G6 0 N003 7 6 table( 7 4.3m 10 2.5m 20 1.5m)
C6 4 7 10p
C7 4 6 10p
D1 0 N003 Xx
C2 4 N019 500p Rser=.21G Rpar=6G
Q9 N012 N010 14 0 PNy temp=27
Q10 N010 N008 4 0 NAy
Q11 N008 N009 N025 0 NPy temp=27
C8 N008 N009 12p Rser=250K
Q12 N009 N009 3 0 NPy 10 temp=27
R10 3 4 12K
R12 N025 4 10K
C9 1 N009 15p
Q13 1 N021 N022 0 FBy temp=27
R13 N022 3 106.8K
R14 12 4 20Meg
I1 12 4 1µ load
G5 14 N009 N005 4 1.2µ
G7 14 N008 N005 4 1.2µ
R15 14 N010 600K
R16 N012 1 .66
A4 N011 0 N008 N008 N008 N008 4 N008 VARISTOR
D2 0 N011 Fy
G8 0 N011 1 N012 10m
Q14 N009 N010 N012 0 Py 1m
D3 14 1 Xy
C11 1 4 10p
C12 14 4 10p
C13 3 4 1p
G9 0 N011 14 0 table(1.3 1m 2.4 2.1m 10 3.2m)
G10 N011 0 N005 4 table(0 2.1m 1 0)
C14 14 N008 .3p Rser=.8G
A5 12 4 4 4 4 4 N005 4 SCHMITT Vt=.8 Vh=1m trise=2m
C16 14 N009 100p Rser=.67G Rpar=6G
S1 0 N003 0 N006 SSx
R18 N007 4 240K
R19 7 N007 744K
R20 N021 4 244K
R21 1 N021 753K
.model Nx NPN(Cje=5p Cjc=5p BF=150)
.model Px PNP(Cje=5p Cjc=5p BF=150)
.model NAx NPN(Cje=1p Cjc=1p BF=8K)
.model NPx NPN(Cje=50p Cjc=50p BF=50)
.model Xx D(Ron=1 Roff=1K)
.model SSx SW(Ron=1 Roff=1G Vt=-.95 Vh=-25m)
.model Py PNP(BF=100)
.model NPy NPN(Cje=1p Cjc=1p BF=150)
.model NAy NPN(BF=500K Cje=.5p Cjc=.5p Re=40)
.model PNy PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model FBy NPN(Cje=5p Cjc=5p BF=150)
.model Fy D(Ron=1m Roff=10K)
.model Xy D(Ron=10 Vfwd=30)
.ends LT3032-5
*
.subckt LT3032 1 2 3 4 5 6 7 8 9 10 11 12 13 14
Q2 N017 N015 N021 0 NA
Q3 N015 N018 N024 0 N temp=27
C1 N015 N018 18p Rser=40K
Q4 N018 N018 N025 0 N 10 temp=27
R2 N025 6 12K
R3 N024 6 10K
Q1 N025 8 N016 0 P temp=27
R6 4 N016 121.5K
R8 N021 6 1K
Q5 N017 N017 N014 0 P
Q6 N023 N017 4 0 P 6
R1 N023 6 450K
R9 4 N014 4K
Q7 N020 N023 6 0 NP
R7 7 N020 .7
Q8 6 N020 N015 0 P 4.5
G1 4 N015 11 4 80µ
R5 4 11 5K
A1 4 10 0 0 0 0 N005 0 SCHMITT Vt=1.9 Vh=10m Rhigh=1 Rlow=1K
A2 10 4 0 0 0 0 N005 0 SCHMITT Vt=1.4 Vh=10m Rhigh=1 Rlow=1K
G2 4 N015 N005 0 1.2µ
G3 4 N018 N005 0 1.2µ
C4 0 N005 .1µ
R4 10 4 5Meg
A3 0 N002 N015 N015 N015 N015 6 N015 VARISTOR
G4 0 N002 N020 7 10m
G6 0 N002 7 6 table( 7 4.3m 10 2.5m 20 1.5m)
C5 4 8 1p
C6 4 7 10p
C7 4 6 10p
D1 0 N002 X
C2 4 N018 500p Rser=.21G Rpar=6G
Q9 N011 N009 14 0 PN_ temp=27
Q10 N009 N007 4 0 NA_
Q11 N007 N008 N022 0 NP_ temp=27
C8 N007 N008 12p Rser=250K
Q12 N008 N008 3 0 NP_ 10 temp=27
R10 3 4 12K
R12 N022 4 10K
C9 1 N008 15p
Q13 1 2 N019 0 FB_ temp=27
R13 N019 3 106.8K
R14 12 4 20Meg
I1 12 4 1µ load
G5 14 N008 N004 4 1.2µ
G7 14 N007 N004 4 1.2µ
R15 14 N009 600K
R16 N011 1 .66
A4 N010 0 N007 N007 N007 N007 4 N007 VARISTOR
D2 0 N010 F_
G8 0 N010 1 N011 10m
Q14 N008 N009 N011 0 P_ 1m
D3 14 1 X_
C11 1 4 10p
C12 14 4 10p
C13 3 4 1p
G9 0 N010 14 0 table(1.3 1m 2.4 2.1m 10 3.2m)
G10 N010 0 N004 4 table(0 2.1m 1 0)
C14 14 N007 .3p Rser=.8G
A5 12 4 4 4 4 4 N004 4 SCHMITT Vt=.8 Vh=1m trise=2m
C15 2 4 1p
C16 14 N008 100p Rser=.67G Rpar=6G
S1 0 N002 0 N005 SS
.model N NPN(Cje=5p Cjc=5p BF=150)
.model P PNP(Cje=5p Cjc=5p BF=150)
.model NA NPN(Cje=1p Cjc=1p BF=8K)
.model NP NPN(Cje=50p Cjc=50p BF=50)
.model X D(Ron=1 Roff=1K)
.model SS SW(Ron=1 Roff=1G Vt=-.95 Vh=-25m)
.model P_ PNP(BF=100)
.model NP_ NPN(Cje=1p Cjc=1p BF=150)
.model NA_ NPN(BF=500K Cje=.5p Cjc=.5p Re=40)
.model PN_ PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model FB_ NPN(Cje=5p Cjc=5p BF=150)
.model F_ D(Ron=1m Roff=10K)
.model X_ D(Ron=10 Vfwd=30)
.ends LT3032
