* Copyright © Linear Technology Corp. 1998, 1999, 2000.  All rights reserved.
*
.subckt opamp 1 2 3
G1 0 3 2 1 {Aol}
R3 3 0 1.
C3 3 0 {Aol/GBW/6.28318530717959}
.ends opamp
